US04484939
Preparation of S,S-dimethyl-N-(4,6-dimethoxypyrimidin-2-yl)sulfilimine
To a solution of 15.5 g (0.10 mole) of 2-amino-4,6-dimethoxypyrimidine and 8 ml (0.109 mole) of methylsulfide in 100 ml of methylene chloride at -20° C. was added dropwise a solution of 13.3 g (0.10 mole) of N-chlorosuccinimide in 300 ml of methylene chloride. After addition, the resulting solution stirred at -20° C. for 2 hours and then warmed up to room temperature. The solution was stirred at room temperature for another hour. The solution was washed with 400 ml of 2.5% sodium hydroxide aqueous solution and then 400 ml of water. The organic layer was separated, dried over sodium sulfate and concentrated under reduced pressure. The residue was washed with ethyl ether, and dried under vacuum at ambient temperature to afford 6 g of the title compound as a solid, m.p. 102°-103° C. (dec.).

reactant | 2-amino-4,6-dimethoxypyrimidine | 0.10 mole, 15.5 g | NC1=NC(=CC(=N1)OC)OC | C6H9N3O2
reactant | methylsulfide | 0.109 mole, 8 ml | CSC | C2H6S
reactant | N-chlorosuccinimide | 0.10 mole, 13.3 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | S,S-dimethyl-N-(4,6-dimethoxypyrimidin-2-yl)sulfilimine | 6 g | CS(=NC1=NC(=CC(=N1)OC)OC)C | C8H13N3O2S
